R1 ( net113 net121)  R=5.7E0
T2 ( net121 net20 vdd! vdd!)  pfet  L=7.21E-6 W=8.14E-6
T3 ( net179 net20 vdd! vdd!)  pfet  L=7.21E-6 W=8.14E-6
T4 ( 0 net121 net20 vdd!)  pfet  L=7.21E-6 W=8.14E-6
R5 (net11 net70) R=6.1E3
T6 (net13 net11 net11 0) pfet L=0.17E-6 W=1.47E-6
T7 (net37 net71 net71 0) pfet L=2.74E-6 W=2.85E-6
C8 (net183 net40) C=6.7E-11
R9 ( net79 net131)  R=7.7E1
T10 ( net131 net65 0 0)  nfet  L=5.74E-6 W=4.15E-6
T11 ( net12 net65 0 0)  nfet  L=5.74E-6 W=4.15E-6
T12 ( net34 net131 net12 0)  nfet  L=5.74E-6 W=4.15E-6
R13 (net186 net34) R=6.6E0
R14 (vdd! net197) R=7.9E5
T15 (net205 net114 net114 0) pfet L=7.57E-6 W=9.44E-6
T16 (net25 net174 net174 0) pfet L=8.26E-6 W=0.25E-6
C17 (net82 net47) C=4.7E-5
T18 (net161 net74 net74 0) nfet L=1.37E-6 W=2.98E-6
C19 (net23 net79) C=7.9E-11
C20 (net173 net168) C=1.3E-6
T21 (net6 net125 net125 0) nfet L=3.54E-6 W=1.87E-6
C22 (net144 net115) C=9.9E-9
T23 (0 net198 net198 0) pfet L=0.18E-6 W=4.14E-6
R24 (net204 net85) R=6.8E1
R25 (net28 net151) R=8.5E0
T26 (net144 net39 net39 0) nfet L=0.39E-6 W=8.10E-6
T27 (net164 net176 net176 0) nfet L=1.50E-6 W=8.53E-6
T28 (net112 net154 net154 0) pfet L=0.30E-6 W=5.52E-6
R29 (net70 net27) R=2.7E6
T30 (net180 net107 net107 0) pfet L=9.79E-6 W=5.86E-6
T31 (net9 net128 net128 0) pfet L=5.62E-6 W=1.90E-6
C32 (net73 net132) C=6.1E-14
T33 (net132 net140 net140 0) nfet L=5.68E-6 W=1.63E-6
C34 (net45 net190) C=5.8E-7
C35 (vdd! 0) C=5.0E-6
T36 (net206 net197 net197 0) pfet L=3.81E-6 W=5.82E-6
R37 (net146 vdd!) R=9.1E6
T38 (net1 net82 net82 0) nfet L=6.72E-6 W=3.72E-6
C39 (net79 net180) C=0.8E-10
T40 (net137 net1 net1 0) nfet L=8.06E-6 W=4.06E-6
T41 (vdd! net93 net93 0) nfet L=4.04E-6 W=9.89E-6
R42 (net192 net149) R=2.4E6
R43 (net109 net173) R=1.0E3
R44 (net86 net186) R=2.3E2
R45 (net38 net105) R=4.9E1
C46 (net160 net73) C=1.6E-8
T47 (net67 net68 net68 0) nfet L=8.88E-6 W=0.77E-6
T48 (vdd! net73 net73 0) pfet L=6.96E-6 W=9.59E-6
T49 (0 net50 net50 0) nfet L=6.47E-6 W=6.40E-6
C50 (net193 net161) C=8.5E-7
C51 (net68 net114) C=2.9E-8
T52 (net155 net81 net81 0) pfet L=4.52E-6 W=3.32E-6
R53 (net24 vdd!) R=5.0E0
T54 (net24 net17 net17 0) nfet L=7.13E-6 W=1.23E-6
R55 (net32 net167) R=1.9E4
T56 (net11 vdd! vdd! 0) nfet L=3.07E-6 W=0.83E-6
T57 (0 net125 net125 0) pfet L=8.64E-6 W=4.78E-6
T58 (net144 net68 net68 0) nfet L=6.85E-6 W=6.71E-6
R59 (net174 net99) R=8.1E1
R60 (net200 net96) R=7.7E3
R61 (net58 0) R=6.0E0
T62 (vdd! net186 net186 0) nfet L=0.12E-6 W=1.60E-6
C63 (net184 net71) C=2.7E-11
R64 (net102 net92) R=0.9E6
R65 (net53 vdd!) R=9.0E5
C66 (net69 net182) C=2.3E-6
R67 (net84 net21) R=4.1E3
C68 (net5 net74) C=1.4E-7
C69 (net36 vdd!) C=9.9E-12
R70 (net33 net99) R=9.9E3
T71 (net68 vdd! vdd! 0) pfet L=4.88E-6 W=6.87E-6
T72 (net198 net36 net36 0) nfet L=8.67E-6 W=2.16E-6
T73 (vdd! net161 net161 0) pfet L=4.77E-6 W=1.83E-6
T74 (0 net22 net22 0) pfet L=2.85E-6 W=1.26E-6
T75 (net32 net2 net2 0) nfet L=7.67E-6 W=0.54E-6
R76 (net64 net124) R=1.2E2
R77 (net142 vdd!) R=6.8E6
T78 (net160 net189 net189 0) nfet L=8.32E-6 W=9.68E-6
C79 (net201 net87) C=8.9E-11
T80 (net139 net194 net194 0) nfet L=8.07E-6 W=9.48E-6
C81 (net192 net135) C=6.1E-11
T82 (vdd! net116 net116 0) pfet L=0.14E-6 W=2.63E-6
C83 (net83 net3) C=3.5E-9
C84 (net38 net178) C=8.6E-8
T85 (net124 net113 net113 0) nfet L=7.88E-6 W=1.31E-6
C86 (net132 net59) C=1.7E-11
R87 (net36 net94) R=3.0E1
C88 (vdd! net3) C=6.8E-12
C89 (vdd! net47) C=7.6E-6
C90 (net180 net171) C=2.1E-13
T91 (net99 net22 net22 0) nfet L=5.73E-6 W=0.65E-6
R92 (net31 net141) R=1.4E1
T93 (net3 net11 net11 0) nfet L=2.35E-6 W=5.69E-6
R94 (net177 net8) R=2.1E2
C95 (net129 net72) C=2.8E-8
C96 (0 net25) C=7.0E-14
T97 (net116 net169 net169 0) pfet L=4.28E-6 W=9.91E-6
T98 (net114 net186 net186 0) nfet L=3.24E-6 W=9.80E-6
R99 (net48 net3) R=8.5E4
R100 (net137 0) R=2.9E3
C101 (net36 net17) C=6.3E-6
R102 (0 net61) R=1.0E4
R103 (net22 net43) R=0.9E2
T104 (net167 net139 net139 0) nfet L=6.21E-6 W=4.03E-6
T105 (net52 net178 net178 0) pfet L=2.15E-6 W=7.99E-6
T106 (net189 net10 net10 0) nfet L=8.66E-6 W=1.95E-6
C107 (net31 net15) C=1.4E-12
C108 (net160 net157) C=5.7E-13
C109 (net185 net73) C=6.1E-11
C110 (net55 net114) C=6.1E-13
T111 (net120 0 0 0) pfet L=9.87E-6 W=3.11E-6
T112 (net140 net168 net168 0) pfet L=0.49E-6 W=6.32E-6
T113 (net139 net86 net86 0) nfet L=6.12E-6 W=3.67E-6
T114 (net42 net32 net32 0) nfet L=1.34E-6 W=2.59E-6
C115 (vdd! net85) C=0.9E-9
T116 (net91 net165 net165 0) nfet L=8.27E-6 W=4.65E-6
C117 (net141 0) C=5.6E-5
R118 (net60 net177) R=1.4E1
T119 (net116 net53 net53 0) nfet L=0.74E-6 W=4.96E-6
T120 (net176 net164 net164 0) nfet L=0.49E-6 W=0.77E-6
T121 (net115 net198 net198 0) pfet L=1.78E-6 W=4.68E-6
C122 (net179 net9) C=2.3E-8
T123 (net24 net13 net13 0) pfet L=9.74E-6 W=8.94E-6
R124 (net150 net74) R=1.1E0
C125 (net30 net69) C=9.6E-11
R126 (net102 net6) R=8.7E0
T127 (0 net31 net31 0) nfet L=6.87E-6 W=7.07E-6
C128 (net70 net155) C=6.2E-14
C129 (net42 net59) C=2.5E-5
T130 (net94 net136 net136 0) pfet L=1.59E-6 W=9.34E-6
T131 (net86 net192 net192 0) nfet L=4.47E-6 W=1.99E-6
T132 (net86 net108 net108 0) pfet L=3.97E-6 W=1.64E-6
C133 (net200 net197) C=7.5E-11
C134 (net200 net47) C=5.5E-7
T135 (net123 vdd! vdd! 0) nfet L=7.40E-6 W=5.90E-6
C136 (vdd! net161) C=9.4E-12
T137 (net189 net127 net127 0) pfet L=3.66E-6 W=0.65E-6
R138 (net136 net184) R=2.0E4
R139 (vdd! net135) R=7.2E6
T140 (net78 net75 net75 0) pfet L=0.34E-6 W=5.01E-6
C141 (net94 net203) C=6.6E-13
C142 (vdd! net81) C=3.6E-7
T143 (net71 net30 net30 0) nfet L=5.99E-6 W=1.72E-6
T144 (net169 net14 net14 0) pfet L=0.35E-6 W=4.00E-6
C145 (net7 net111) C=9.8E-9
R146 (net107 net176) R=3.5E5
R147 (net63 vdd!) R=3.1E0
T148 (net21 net57 net57 0) nfet L=0.42E-6 W=6.11E-6
C149 (net80 net160) C=7.4E-6
T150 (net18 net111 net111 0) nfet L=3.17E-6 W=5.55E-6
C151 (net100 net53) C=2.7E-7
R152 (net16 net201) R=9.1E0
R153 (net37 net55) R=1.9E4
R154 (net27 net144) R=5.5E6
R155 (0 net162) R=6.8E5
C156 (net49 net10) C=2.6E-8
R157 (net128 net69) R=8.9E6
R158 (net78 net31) R=2.0E3
T159 (net119 net186 net186 0) pfet L=0.18E-6 W=0.61E-6
R160 (net74 net25) R=9.9E0
R161 (net3 net103) R=4.2E2
T162 (net39 0 0 0) pfet L=1.45E-6 W=7.60E-6
T163 (net73 net192 net192 0) nfet L=7.83E-6 W=3.89E-6
R164 (net32 net85) R=8.3E6
T165 (net154 net207 net207 0) pfet L=9.14E-6 W=8.04E-6
T166 (net91 net101 net101 0) pfet L=0.47E-6 W=3.49E-6
T167 (net66 net108 net108 0) pfet L=1.14E-6 W=8.08E-6
R168 (net189 net27) R=2.5E6
T169 (vdd! net144 net144 0) pfet L=7.60E-6 W=3.52E-6
T170 (net118 net142 net142 0) pfet L=2.47E-6 W=8.16E-6
C171 (net177 net114) C=3.2E-10
T172 (vdd! net80 net80 0) nfet L=7.24E-6 W=9.21E-6
T173 (net89 net106 net106 0) nfet L=8.10E-6 W=5.16E-6
T174 (net180 net33 net33 0) nfet L=1.27E-6 W=3.00E-6
T175 (net186 net181 net181 0) pfet L=7.36E-6 W=4.02E-6
T176 (net193 net107 net107 0) pfet L=5.10E-6 W=1.18E-6
R177 (net4 net2) R=2.3E6
C178 (net8 net15) C=1.3E-5
T179 (net49 net8 net8 0) pfet L=3.87E-6 W=9.25E-6
C180 (net168 net86) C=8.5E-5
C181 (net6 net77) C=2.1E-10
R182 (net197 net43) R=6.0E0
T183 (net162 net17 net17 0) nfet L=5.29E-6 W=1.41E-6
C184 (net41 net100) C=5.7E-6
R185 (net71 net5) R=9.9E2
T186 (net139 net176 net176 0) pfet L=2.61E-6 W=1.90E-6
T187 (net170 net53 net53 0) pfet L=7.69E-6 W=8.19E-6
T188 (net148 net11 net11 0) nfet L=2.06E-6 W=6.55E-6
C189 (net165 net185) C=8.2E-11
R190 (net170 net86) R=3.5E6
R191 (net48 net5) R=4.1E2
T192 (net61 net3 net3 0) pfet L=6.13E-6 W=6.39E-6
R193 (net90 net73) R=0.1E0
T194 (net40 net129 net129 0) pfet L=5.49E-6 W=9.39E-6
R195 (net10 net78) R=3.7E2
R196 (net117 net184) R=0.1E0
T197 (net195 net32 net32 0) pfet L=4.65E-6 W=9.86E-6
C198 (net132 0) C=4.8E-9
R199 (net165 net145) R=7.5E4
C200 (net6 net169) C=9.3E-8
R201 (net112 net128) R=5.8E6
C202 (net90 net134) C=3.4E-6
R203 (net120 net207) R=6.5E2
T204 (net80 net40 net40 0) pfet L=9.13E-6 W=7.98E-6
C205 (net75 net101) C=8.1E-9
C206 (net206 vdd!) C=1.8E-5
R207 (net127 net157) R=6.7E5
R208 (net158 net48) R=3.4E3
T209 (0 net90 net90 0) pfet L=9.86E-6 W=1.53E-6
T210 (net39 net103 net103 0) nfet L=5.48E-6 W=9.73E-6
R211 (net40 net195) R=9.4E4
C212 (net145 net203) C=4.2E-9
T213 (net63 0 0 0) nfet L=4.72E-6 W=8.48E-6
T214 (net9 net45 net45 0) nfet L=9.49E-6 W=8.36E-6
T215 (net119 net115 net115 0) pfet L=1.04E-6 W=7.60E-6
C216 (net68 vdd!) C=3.9E-5
R217 (net13 net126) R=2.6E3
T218 (vdd! net169 net169 0) pfet L=9.63E-6 W=9.71E-6
R219 (net151 net30) R=3.7E3
T220 (net16 net202 net202 0) nfet L=2.68E-6 W=5.22E-6
T221 (net160 net80 net80 0) nfet L=7.17E-6 W=8.51E-6
C222 (net4 net141) C=6.6E-12
R223 (net143 net18) R=6.3E6
T224 (net129 net110 net110 0) pfet L=3.13E-6 W=9.03E-6
T225 (net118 net99 net99 0) nfet L=8.59E-6 W=8.36E-6
R226 (net103 net31) R=4.1E3
R227 (net181 net47) R=9.9E6
T228 (net70 net47 net47 0) pfet L=6.92E-6 W=9.54E-6
R229 (net93 net119) R=5.6E4
T230 (net197 net130 net130 0) pfet L=9.56E-6 W=8.28E-6
T231 (net153 net195 net195 0) pfet L=1.83E-6 W=5.83E-6
C232 (net176 net193) C=4.9E-11
R233 (net199 net193) R=7.4E0
T234 (net136 net47 net47 0) nfet L=3.33E-6 W=9.87E-6
T235 (vdd! net185 net185 0) nfet L=5.54E-6 W=5.26E-6
C236 (net82 net114) C=0.7E-14
T237 (net39 net57 net57 0) nfet L=5.87E-6 W=3.81E-6
C238 (net114 net130) C=8.6E-14
T239 (net37 net3 net3 0) pfet L=1.06E-6 W=1.19E-6
R240 (net46 net110) R=6.6E4
C241 (net84 net152) C=4.7E-11
R242 (vdd! net25) R=3.2E1
T243 (vdd! net133 net133 0) nfet L=3.98E-6 W=3.99E-6
T244 (net48 net146 net146 0) pfet L=3.73E-6 W=7.07E-6
T245 (0 net111 net111 0) pfet L=2.91E-6 W=3.11E-6
R246 (net163 0) R=3.9E4
T247 (0 0 0 0) nfet L=4.95E-6 W=9.04E-6
T248 (net152 0 0 0) nfet L=7.94E-6 W=7.66E-6
T249 (net41 net98 net98 0) nfet L=7.08E-6 W=1.83E-6
T250 (net140 0 0 0) nfet L=6.76E-6 W=5.17E-6
C251 (net14 net132) C=5.2E-10
R252 (net89 net49) R=3.8E3
C253 (0 net38) C=6.9E-12
R254 (net42 net206) R=2.8E0
T255 (net118 net148 net148 0) pfet L=2.86E-6 W=7.95E-6
T256 (net195 vdd! vdd! 0) pfet L=4.35E-6 W=6.27E-6
C257 (0 net24) C=9.5E-11
T258 (net58 net153 net153 0) pfet L=0.40E-6 W=9.20E-6
T259 (net51 net62 net62 0) nfet L=6.78E-6 W=3.13E-6
T260 (net148 net61 net61 0) nfet L=3.09E-6 W=2.79E-6
T261 (net165 net195 net195 0) pfet L=6.97E-6 W=3.05E-6
T262 (net107 net60 net60 0) pfet L=0.59E-6 W=4.73E-6
R263 (net192 net15) R=9.3E0
T264 (net69 net169 net169 0) pfet L=9.09E-6 W=9.40E-6
T265 (net59 net90 net90 0) nfet L=3.25E-6 W=4.00E-6
C266 (net118 net155) C=7.9E-12
T267 (net181 net56 net56 0) nfet L=0.21E-6 W=0.75E-6
T268 (net43 net79 net79 0) pfet L=9.04E-6 W=7.32E-6
T269 (net172 net85 net85 0) pfet L=7.18E-6 W=6.85E-6
R270 (net140 net89) R=1.1E3
T271 (net70 net201 net201 0) nfet L=7.36E-6 W=0.34E-6
R272 (net177 net96) R=7.8E5
T273 (net166 net23 net23 0) nfet L=2.35E-6 W=1.01E-6
R274 (net32 net66) R=0.3E2
C275 (0 net10) C=5.7E-10
C276 (net117 net11) C=4.0E-11
R277 (net110 net41) R=8.0E1
R278 (net179 net137) R=1.6E5
C279 (net165 net18) C=5.0E-13
T280 (net83 0 0 0) nfet L=4.83E-6 W=1.01E-6
T281 (net10 net2 net2 0) pfet L=8.79E-6 W=3.42E-6
C282 (0 net199) C=5.3E-11
T283 (net30 net54 net54 0) pfet L=1.13E-6 W=5.97E-6
T284 (net57 net158 net158 0) pfet L=6.94E-6 W=9.20E-6
C285 (net55 net116) C=8.6E-7
R286 (net146 net126) R=0.5E2
T287 (net153 net87 net87 0) nfet L=6.19E-6 W=1.64E-6
T288 (net157 net43 net43 0) pfet L=4.17E-6 W=1.24E-6
C289 (net207 net13) C=8.1E-6
T290 (net11 net174 net174 0) pfet L=7.06E-6 W=8.82E-6
T291 (net138 net205 net205 0) pfet L=4.07E-6 W=5.80E-6
T292 (net44 net68 net68 0) nfet L=6.07E-6 W=2.98E-6
T293 (net3 net15 net15 0) nfet L=5.32E-6 W=3.36E-6
T294 (net98 net186 net186 0) pfet L=0.25E-6 W=6.50E-6
R295 (net183 net170) R=0.5E6
T296 (net163 net18 net18 0) nfet L=1.85E-6 W=8.33E-6
C297 (net112 net29) C=3.8E-9
T298 (vdd! net156 net156 0) nfet L=0.47E-6 W=5.30E-6
C299 (net190 net198) C=2.2E-11
T300 (net88 net64 net64 0) pfet L=1.38E-6 W=3.54E-6
T301 (net28 net40 net40 0) pfet L=6.37E-6 W=3.29E-6
T302 (net63 net149 net149 0) pfet L=7.32E-6 W=2.58E-6
T303 (net123 0 0 0) nfet L=3.63E-6 W=7.16E-6
T304 (net13 net99 net99 0) nfet L=5.50E-6 W=8.06E-6
T305 (vdd! net180 net180 0) pfet L=4.52E-6 W=1.19E-6
R306 (net142 net160) R=2.2E1
T307 (net103 net72 net72 0) nfet L=4.11E-6 W=3.29E-6
T308 (net96 net84 net84 0) pfet L=9.36E-6 W=3.09E-6
R309 (net88 vdd!) R=0.6E3
C310 (net154 net190) C=4.7E-13
C311 (net164 net64) C=9.7E-9
C312 (net107 net100) C=6.8E-10
R313 (net82 net142) R=4.3E5
T314 (net32 net23 net23 0) nfet L=0.33E-6 W=6.07E-6
T315 (net78 net207 net207 0) pfet L=8.86E-6 W=2.50E-6
T316 (net184 net81 net81 0) nfet L=1.92E-6 W=1.61E-6
C317 (net182 net56) C=7.2E-13
R318 (net120 net98) R=0.4E2
T319 (net141 net89 net89 0) nfet L=7.96E-6 W=3.61E-6
R320 (net135 net116) R=4.9E1
T321 (net107 net75 net75 0) nfet L=1.49E-6 W=3.01E-6
T322 (net164 net25 net25 0) nfet L=6.77E-6 W=7.77E-6
T323 (0 net119 net119 0) nfet L=4.59E-6 W=2.14E-6
T324 (net118 net197 net197 0) nfet L=7.05E-6 W=9.73E-6
T325 (net185 net174 net174 0) nfet L=7.13E-6 W=2.60E-6
T326 (net87 net135 net135 0) nfet L=3.00E-6 W=4.81E-6
T327 (net167 0 0 0) nfet L=6.00E-6 W=9.65E-6
T328 (net49 net192 net192 0) nfet L=7.24E-6 W=6.09E-6
T329 (net148 net173 net173 0) pfet L=1.64E-6 W=2.38E-6
C330 (net179 net114) C=2.0E-10
T331 (net67 net180 net180 0) pfet L=7.41E-6 W=3.82E-6
T332 (net172 net162 net162 0) nfet L=6.79E-6 W=5.01E-6
T333 (net2 net11 net11 0) nfet L=5.38E-6 W=2.92E-6
T334 (net45 net174 net174 0) pfet L=2.34E-6 W=2.29E-6
T335 (net203 net184 net184 0) pfet L=1.28E-6 W=7.92E-6
T336 (net37 net13 net13 0) nfet L=0.98E-6 W=2.79E-6
T337 (net99 0 0 0) nfet L=9.56E-6 W=4.74E-6
T338 (net62 net28 net28 0) nfet L=8.15E-6 W=1.31E-6
T339 (net171 net144 net144 0) nfet L=9.13E-6 W=1.75E-6
C340 (net14 net31) C=2.8E-12
C341 (net141 net44) C=0.6E-5
T342 (net117 net85 net85 0) nfet L=1.50E-6 W=2.33E-6
T343 (net199 net140 net140 0) nfet L=3.56E-6 W=1.36E-6
C344 (net23 vdd!) C=9.5E-7
R345 (net40 net96) R=3.7E3
T346 (net199 net59 net59 0) pfet L=1.08E-6 W=2.26E-6
C347 (net2 net64) C=7.4E-11
C348 (net103 net204) C=3.3E-13
T349 (net87 0 0 0) pfet L=1.74E-6 W=8.28E-6
T350 (net17 net167 net167 0) pfet L=1.70E-6 W=9.98E-6
T351 (net139 net183 net183 0) pfet L=0.33E-6 W=7.64E-6
R352 (net191 net164) R=8.1E2
C353 (net151 net194) C=8.7E-5
T354 (net79 net144 net144 0) pfet L=2.05E-6 W=8.11E-6
T355 (net7 net83 net83 0) pfet L=3.09E-6 W=1.94E-6
C356 (net88 net41) C=5.1E-11
R357 (net48 net18) R=9.4E3
R358 (net158 net94) R=1.5E5
T359 (net48 net79 net79 0) pfet L=7.45E-6 W=5.97E-6
C360 (net43 net190) C=3.4E-9
C361 (net159 net146) C=9.4E-14
R362 (net122 net156) R=8.4E4
T363 (net46 net197 net197 0) pfet L=4.81E-6 W=8.34E-6
R364 (net195 net85) R=8.7E1
T365 (net8 net77 net77 0) pfet L=1.88E-6 W=9.22E-6
T366 (net3 net120 net120 0) nfet L=3.01E-6 W=3.68E-6
C367 (net185 net33) C=6.7E-12
T368 (net66 net35 net35 0) nfet L=9.25E-6 W=6.34E-6
T369 (net171 net64 net64 0) pfet L=2.95E-6 W=8.70E-6
T370 (net93 net61 net61 0) nfet L=9.21E-6 W=0.54E-6
T371 (net27 net17 net17 0) nfet L=6.75E-6 W=7.30E-6
T372 (net146 net146 net146 0) pfet L=8.32E-6 W=0.70E-6
C373 (net8 net73) C=5.6E-8
T374 (net105 net191 net191 0) nfet L=1.73E-6 W=5.75E-6
C375 (net176 net125) C=7.3E-9
T376 (net10 net150 net150 0) pfet L=8.05E-6 W=9.31E-6
T377 (net109 vdd! vdd! 0) pfet L=4.59E-6 W=0.90E-6
R378 (net142 net80) R=8.9E6
R379 (net140 net85) R=0.3E2
R380 (net61 net14) R=8.3E2
C381 (net45 net205) C=0.5E-9
C382 (net134 net198) C=8.7E-10
R383 (net187 net203) R=5.9E6
C384 (net14 net120) C=0.7E-11
C385 (net135 net150) C=3.9E-8
R386 (net28 vdd!) R=4.3E0
R387 (net130 0) R=7.2E5
C388 (net36 net146) C=6.5E-6
T389 (net45 net79 net79 0) nfet L=9.26E-6 W=4.89E-6
T390 (net194 net77 net77 0) pfet L=9.90E-6 W=2.03E-6
C391 (vdd! 0) C=8.3E-9
T392 (net181 net49 net49 0) pfet L=1.54E-6 W=7.63E-6
C393 (net1 net124) C=9.6E-11
T394 (net149 net178 net178 0) pfet L=4.42E-6 W=4.48E-6
C395 (net89 net106) C=0.3E-7
T396 (net111 net203 net203 0) pfet L=9.39E-6 W=1.82E-6
R397 (net207 net178) R=7.0E0
C398 (net125 net104) C=9.2E-9
T399 (net127 net98 net98 0) pfet L=6.60E-6 W=2.99E-6
R400 (net152 0) R=7.6E1
C401 (net35 net189) C=2.4E-14
C402 (net34 net1) C=8.1E-6
R403 (net7 net182) R=1.0E0
C404 (net151 net91) C=5.5E-8
C405 (net176 net18) C=1.2E-5
T406 (net144 net87 net87 0) nfet L=5.92E-6 W=2.14E-6
C407 (net119 net136) C=6.5E-8
R408 (0 net138) R=6.5E4
T409 (net67 net31 net31 0) nfet L=9.84E-6 W=4.97E-6
T410 (net53 net45 net45 0) pfet L=5.68E-6 W=8.78E-6
T411 (net135 vdd! vdd! 0) nfet L=7.22E-6 W=4.34E-6
C412 (net117 net88) C=6.2E-11
C413 (net43 net119) C=3.0E-10
R414 (net27 net29) R=8.3E5
R415 (net116 net198) R=2.5E2
T416 (net196 vdd! vdd! 0) nfet L=5.43E-6 W=6.19E-6
C417 (net150 net132) C=5.1E-10
T418 (vdd! net67 net67 0) pfet L=0.39E-6 W=0.85E-6
T419 (net33 net168 net168 0) pfet L=3.43E-6 W=3.48E-6
T420 (net206 vdd! vdd! 0) pfet L=6.90E-6 W=7.21E-6
T421 (net92 net144 net144 0) pfet L=3.36E-6 W=4.39E-6
T422 (net153 net110 net110 0) nfet L=2.52E-6 W=1.81E-6
R423 (net19 vdd!) R=7.7E4
C424 (net64 net79) C=7.5E-6
T425 (net34 vdd! vdd! 0) pfet L=4.45E-6 W=6.82E-6
C426 (net136 net179) C=6.5E-6
R427 (net195 net21) R=4.0E1
T428 (net116 net98 net98 0) pfet L=8.53E-6 W=9.57E-6
C429 (net180 net94) C=3.4E-5
C430 (net164 net60) C=1.7E-11
T431 (net181 net127 net127 0) pfet L=0.40E-6 W=8.05E-6
R432 (net124 net205) R=2.5E4
T433 (net34 net49 net49 0) nfet L=4.52E-6 W=2.24E-6
T434 (net70 net58 net58 0) nfet L=4.10E-6 W=8.08E-6
R435 (net76 net191) R=10.0E3
R436 (net31 net1) R=7.2E4
C437 (net164 net128) C=10.0E-13
T438 (net163 net39 net39 0) pfet L=5.47E-6 W=9.96E-6
T439 (net9 net165 net165 0) pfet L=4.54E-6 W=5.42E-6
T440 (net171 net79 net79 0) pfet L=7.26E-6 W=2.82E-6
C441 (vdd! net193) C=0.2E-14
T442 (net82 net105 net105 0) pfet L=7.69E-6 W=0.46E-6
T443 (net154 net153 net153 0) nfet L=9.41E-6 W=6.20E-6
R444 (net185 net51) R=0.4E6
T445 (0 net134 net134 0) nfet L=9.90E-6 W=8.35E-6
T446 (net177 net133 net133 0) pfet L=8.33E-6 W=3.25E-6
R447 (net16 net111) R=8.6E3
T448 (net49 net192 net192 0) pfet L=2.88E-6 W=0.59E-6
T449 (net102 net9 net9 0) pfet L=5.66E-6 W=9.52E-6
R450 (net182 net66) R=9.7E4
R451 (net159 net90) R=5.6E5
C452 (net113 net111) C=9.1E-5
C453 (net52 net149) C=5.0E-8
T454 (net84 net13 net13 0) nfet L=2.74E-6 W=5.40E-6
C455 (net160 net6) C=0.8E-11
T456 (net203 net39 net39 0) pfet L=0.96E-6 W=3.18E-6
T457 (net159 vdd! vdd! 0) nfet L=5.16E-6 W=9.27E-6
C458 (net95 net200) C=5.0E-6
T459 (net87 net68 net68 0) nfet L=7.93E-6 W=0.48E-6
C460 (net145 net7) C=1.9E-8
T461 (net26 net97 net97 0) nfet L=3.12E-6 W=3.97E-6
C462 (net37 net123) C=7.5E-5
T463 (vdd! net28 net28 0) pfet L=9.64E-6 W=1.52E-6
T464 (net1 net205 net205 0) pfet L=3.12E-6 W=2.89E-6
R465 (0 net15) R=7.8E0
C466 (net80 net176) C=2.5E-14
R467 (0 net165) R=0.3E4
T468 (vdd! net130 net130 0) pfet L=3.52E-6 W=7.58E-6
C469 (0 net14) C=0.8E-11
R470 (net15 net79) R=8.6E1
R471 (net114 net103) R=9.7E6
T472 (net194 net173 net173 0) nfet L=0.43E-6 W=3.37E-6
C473 (net109 net24) C=9.0E-6
T474 (net111 net22 net22 0) pfet L=9.31E-6 W=9.57E-6
T475 (net155 net179 net179 0) nfet L=4.68E-6 W=4.62E-6
R476 (net181 vdd!) R=9.5E3
C477 (net8 net138) C=5.1E-5
C478 (net168 net58) C=3.7E-5
T479 (net13 net139 net139 0) pfet L=4.03E-6 W=8.95E-6
T480 (0 net96 net96 0) pfet L=1.73E-6 W=8.03E-6
T481 (net97 net93 net93 0) pfet L=0.46E-6 W=9.90E-6
T482 (vdd! net61 net61 0) pfet L=7.64E-6 W=3.11E-6
C483 (net207 net101) C=6.9E-11
T484 (net154 net180 net180 0) nfet L=6.07E-6 W=0.97E-6
T485 (net5 net165 net165 0) pfet L=4.44E-6 W=3.89E-6
T486 (net53 net91 net91 0) pfet L=3.43E-6 W=6.28E-6
C487 (net99 vdd!) C=3.4E-7
R488 (net166 net181) R=9.9E2
T489 (net34 net192 net192 0) pfet L=8.12E-6 W=3.09E-6
R490 (net198 net70) R=2.2E6
R491 (net98 net175) R=3.1E6
R492 (net112 net207) R=6.8E0
R493 (net126 net82) R=4.2E0
R494 (net26 net177) R=3.3E3
T495 (net201 net5 net5 0) pfet L=2.87E-6 W=2.45E-6
R496 (net129 net87) R=7.3E0
T497 (net85 net117 net117 0) pfet L=4.67E-6 W=4.23E-6
T498 (net139 net80 net80 0) pfet L=2.34E-6 W=1.32E-6
T499 (net72 net172 net172 0) pfet L=2.78E-6 W=1.25E-6
T500 (net67 vdd! vdd! 0) pfet L=6.62E-6 W=4.73E-6
R501 (net16 net102) R=3.7E0
C502 (net186 net101) C=5.5E-12
T503 (net126 net196 net196 0) pfet L=8.39E-6 W=8.83E-6
T504 (net48 net29 net29 0) pfet L=6.85E-6 W=5.93E-6
R505 (net198 net25) R=6.8E3
C506 (net185 net17) C=8.0E-11
R507 (net38 net109) R=5.8E4
C508 (net36 net174) C=5.9E-13
T509 (net105 net28 net28 0) pfet L=9.78E-6 W=6.90E-6
C510 (net56 0) C=4.7E-12
T511 (net162 net133 net133 0) nfet L=0.50E-6 W=4.41E-6
C512 (net53 net87) C=2.8E-8
T513 (net42 net29 net29 0) pfet L=9.50E-6 W=8.99E-6
R514 (net24 net174) R=7.2E3
T515 (net13 vdd! vdd! 0) nfet L=8.88E-6 W=0.49E-6
R516 (net90 net176) R=1.5E0
C517 (net170 net67) C=0.6E-13
R518 (net32 net107) R=7.9E1
T519 (vdd! net90 net90 0) nfet L=2.15E-6 W=7.50E-6
C520 (net56 net23) C=2.5E-5
T521 (net62 net102 net102 0) pfet L=2.32E-6 W=3.55E-6
C522 (net23 net130) C=2.0E-11
T523 (net166 net79 net79 0) nfet L=3.33E-6 W=4.85E-6
R524 (net113 net205) R=5.7E1
R525 (net202 net163) R=8.0E5
T526 (net18 net174 net174 0) nfet L=5.32E-6 W=5.90E-6
T527 (net68 vdd! vdd! 0) nfet L=4.28E-6 W=0.53E-6
T528 (vdd! net85 net85 0) pfet L=8.18E-6 W=5.72E-6
R529 (net206 net111) R=6.9E0
C530 (net161 net187) C=6.4E-11
R531 (net196 net167) R=8.9E6
T532 (net119 net35 net35 0) pfet L=2.13E-6 W=2.16E-6
T533 (net119 net134 net134 0) nfet L=6.44E-6 W=4.24E-6
T534 (net55 net45 net45 0) pfet L=0.28E-6 W=4.13E-6
R535 (net13 net2) R=9.8E6
C536 (0 net136) C=0.5E-8
T537 (net28 net156 net156 0) pfet L=8.80E-6 W=2.51E-6
R538 (net25 net8) R=6.0E6
C539 (net116 0) C=3.8E-11
R540 (net68 net115) R=8.3E3
T541 (net11 net154 net154 0) nfet L=6.17E-6 W=2.04E-6
C542 (net98 net151) C=0.6E-9
T543 (net72 net9 net9 0) nfet L=5.09E-6 W=0.50E-6
T544 (net197 net109 net109 0) pfet L=5.37E-6 W=4.63E-6
R545 (net188 net195) R=9.2E0
T546 (net181 net97 net97 0) nfet L=9.32E-6 W=0.76E-6
C547 (net180 net63) C=9.1E-6
T548 (net128 net184 net184 0) nfet L=6.63E-6 W=9.67E-6
T549 (net120 net22 net22 0) pfet L=4.00E-6 W=8.83E-6
R550 (net41 net22) R=6.8E5
T551 (net19 net135 net135 0) nfet L=2.01E-6 W=4.32E-6
T552 (net18 net118 net118 0) nfet L=0.88E-6 W=2.88E-6
T553 (net67 net169 net169 0) nfet L=5.65E-6 W=6.96E-6
T554 (net55 net122 net122 0) pfet L=4.14E-6 W=0.13E-6
T555 (net163 net155 net155 0) nfet L=3.45E-6 W=1.85E-6
C556 (net75 vdd!) C=6.8E-9
C557 (net13 net91) C=5.7E-9

